US08912188B2
To a solution of methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (100 mg, 0.34 mmol) in 1,4-dioxane (1 mL) was added 2-(6-chloro-1-benzofuran-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (300 mg, crude), and K3PO4 (140 mg, 0.66 mmol), Pd(PPh3)4 (20 mg, 0.02 mmol) under nitrogen atmosphere. After stirring 1 h at 95° C., the reaction mixture was dissolved in water (50 mL), extracted with dichloromethane (3×30 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 2% ethyl acetate in petroleum ether to afford methyl 2-(6-chloro-1-benzofuran-2-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate as a light yellow solid (60 mg, 43%).

reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.34 mmol, 100 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | 2-(6-chloro-1-benzofuran-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 300 mg | ClC1=CC2=C(C=C(O2)B2OC(C(O2)(C)C)(C)C)C=C1 | C14H16BClO3
reactant | K3PO4 | 0.66 mmol, 140 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(6-chloro-1-benzofuran-2-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 60 mg, 43% | ClC1=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N(C(C)C)C)C(=O)OC)C=C1 | C22H20ClN3O3
